US05112967
(6R-trans)-3-[[[3,4-bis(acetyloxy)benzoy]oxy]methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2carboxylic acid
To a magnetically stirred 500 mL flask under argon at room temperature (about 23° C.) was added 25.69 g of (6R-trans)-3-[[[3,4-bis(acetyloxy)-benzoyl]oxy]methyl-7-[[1,1dimethylethoxycarbonyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid and 250 mL of methylene chloride. This was followed by the addition of 25 mL of anisole and 250 mL of trifluoroacetic acid. Stirring was continued for 3 hours and then the solvents removed in vacuo. To the oil residue was added 200 mL of ethyl acetate and stirred for 20 minutes causing precipitation. 650 mL of anhydrous ether was added to this suspension and stirred for 10 minutes. The mixture was filtered on a Buchner funnel and dried under high vacuum to give 20.25 g (76.9%) of the named product.

reactant | [[3,4-bis(acetyloxy)-benzoyl]oxy]methyl-7-[[1,1dimethylethoxycarbonyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OC=1C=C(C(=O)OCC2=C(N3C(C(C3SC2)NC(=O)OC(C)(C)C)=O)C(=O)O)C=CC1OC(C)=O | C24H26N2O11S
reactant | anisole | 25 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 250 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | (6R-trans)-3-[[[3,4-bis(acetyloxy)benzoy]oxy]methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2carboxylic acid | 20.25 g, 76.9% | C(C)(=O)OC=1C=C(C(=O)OCC2=C(N3C([C@H]([C@H]3SC2)N)=O)C(=O)O)C=CC1OC(C)=O | C19H18N2O9S
